Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
TIPS
 
History of Present Illness:
Mr. ___ is a ___ year old man with HIV/AIDS (CD4 172, VL<48) on 
___, hepatitis B cirrhosis, and variceal bleeding recently who 
presented to an OSH with hematemesis. He developed acute onset 
of abdominal pain last night, vomiting blood, fell and hit head. 
 At OSH, patient given pantoprazole 40mg, 8mg ondansetron, 1 
unit PRBCs and transferred to ___ for further management. Hct 
down to 23 from 28.
.
Of note, he was just admitted ___ with a variceal bleed 
(banding procedure done 1 day prior at OSH on ___ ; TIPS was 
attempted but was unsuccessful. A repeat TIPS attempt in ___ was 
planned for ___ after further CT mapping. He has not been on a 
beta blocker as an outpatient given history of bradycardia. 
Patient had episode of melena day of discharge from hospital.
.
In the ED, initial vs were 98.5 70 129/68 16 98. Black heme+ 
stools, brusing on flank and abdomen. NG lavage not done. He was 
started on octreotide and pantoprazole drips, given ceftriaxone, 
IV Zofran for nausea. Hasn't gotten other PRBCs here yet. No 
further bleeding here. Access is currently 16g, 18g. HR75 BP 
128/61 20 96% on RA. 

Patient was sent directly to interventional radiology where he 
had a successful TIPS placement (gradient went from 16 to 3 
post-procedure). In ___, patient also had 1.5 L of ascites fluid 
removed as well.  Just prior to ___, patient reportedly had small 
episode of hematemesis but said to be hemodynamically stable. 
Per ___ staff, he had stable vital signs and oxygenation 
throughout entire procedure.  
.
On arrival to the ICU, he appeared to be in no apparent distress 
and his vital signs were: T 96.8F, BP 117/54, HR 77, RR 22 and 
O2 sat 100% on 6L NC. He was on an octreotide drip  at 50mcg/hr 
and Protonix drip at 8mcg/hr. 

 
Past Medical History:
* Cirrhosis c/b ascites and variceal bleeding, no encephalopathy
-- cause not yet clearly established
-- h/o liver biopsy in ___ showing lobular hepatitis, CMV 
positive
-- EGD ___ OSH which revealed esophageal varices:
3 columns-2 grade III and 1 grade II esophageal varices with
stigmata of bleeding and were banded. Pt was also noted gastric
varices. Banded x2 at OSH.
* Hepatitis B
* HIV (CD4 173, VL <48 ___ on ___, on dapsone ppx
* HTN
* Hyperlipidemia
* Anemia
* GERD
* Hemorrhoids

 
Social History:
___
Family History:
unavailable as patient states he never knew his family well 
 
Physical Exam:
Vitals: T 96.8F, BP 117/54, HR 77, RR 22 and O2 sat 100% on 6L 
NC.
General: NAD, pale complexion, on nasal cannula, very cachectic 
appearing   
HEENT: PERRL, OP clear, poor dentition, MMM
Neck: supple, JVP 9-10 cm, no lymphadenopathy
Pulmonary: decreased lung sounds at the bases, otherwise no 
crackles or wheezes, clear anteriorly 
___: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: 2 small guaze pads secured with dressings over RUQ, 
nontender, mildly distended abdomen, normoactive bowel sounds 
throughout, unable to appreciate hepatomegaly 
Ext: 2+ pedal pulses 
Neuro: EOMI, CNs ___ in tact, light touch in tact, moving all 
extremities x 4, ___ upper and lower ext strength  
Derm: multiple tattoos all over chest/back extremities, no 
rashes, pallid complexion 
Lines/tubes/drains; foley in place, has a 16g, 18g and 20g PIV 
 
Pertinent Results:
ADMISSION LABS:
___ 06:00AM BLOOD WBC-9.1# RBC-2.68* Hgb-7.9* Hct-23.1* 
MCV-86 MCH-29.4 MCHC-34.1 RDW-17.3* Plt ___
___ 06:00AM BLOOD Neuts-86.2* Lymphs-11.0* Monos-2.4 
Eos-0.1 Baso-0.2
___ 06:00AM BLOOD ___ PTT-26.3 ___
___ 06:00AM BLOOD Glucose-133* UreaN-17 Creat-1.2 Na-139 
K-3.6 Cl-107 HCO3-25 AnGap-11
___ 06:00AM BLOOD ALT-25 AST-30 AlkPhos-175* TotBili-1.6*
___ 01:59PM BLOOD Albumin-2.6* Calcium-6.8* Phos-3.3 Mg-1.8
.
DISCHARGE LABS:
___ 07:00AM BLOOD WBC-7.0 RBC-3.93* Hgb-11.6* Hct-35.1* 
MCV-89 MCH-29.5 MCHC-33.0 RDW-17.9* Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-93 UreaN-11 Creat-0.9 Na-147* 
K-4.2 Cl-101 HCO3-26 AnGap-24*
___ 07:00AM BLOOD ALT-42* AST-48* AlkPhos-297* TotBili-1.4
___ 07:00AM BLOOD Phos-3.7 Mg-2.1
.
RADIOLOGY:
___ CT HEAD - FINDINGS: There is no intracranial hemorrhage, 
mass effect, shift of midline structures or edema. Gray-white 
matter differentiation is normally preserved. The ventricles and 
cerebral sulci are normal in size and configuration. Basal 
cisterns are symmetric. There are no fractures. The visualized 
paranasal sinuses and mastoid air cells are normally pneumatized 
and aerated. There are calfications of the cavernous internal 
carotid arteries bilaterally. Two 
right frontal skin staples are noted.   
IMPRESSION: No intracranial hemorrhage or edema. No fracture. 
.
CT A&P ___ - INDICATION: ___ male with upper GI 
bleed, referred for evaluation of 
portal venous anatomy prior to TIPS. 
  
COMPARISON: No prior cross-sectional imaging is available for 
review. Prior 
ultrasound dated ___ and angiography from attempted TIPS 
on ___ 
were reviewed. 
  
TECHNIQUE: Multiphasic imaging of the abdomen was performed 
prior to and 
following the intravenous administration of 90 cc of Visipaque 
intravenous 
contrast. Multiplanar reformats were prepared and reviewed. 
  
FINDINGS: Visualized lung bases demonstrate no acute 
abnormality, including 
no consolidation or effusion. There are no pulmonary nodules or 
masses 
identified. The heart base is unremarkable, without pericardial 
effusion. 
There are aortic valvular calcifications. 
  
The liver is somewhat nodular in contour, with a cirrhotic 
appearance. There 
is moderate simple ascites (without evidence of hemoperitoneum) 
and 
splenomegaly with the spleen measuring up to 14 cm in long axis, 
compatible 
with portal hypertension. Thickening of the gastric folds may 
also reflect 
portal gastropathy. 
  
On arterially phased imaging, the perfusion of the liver is 
markedly 
heterogeneous. There are no arterially hyperenhancing lesions. 
On delayed 
imaging, there are persistent geographic, somewhat linear 
regions of 
hypoattenuation, compatible with the sequelae of recent failed 
TIPS. There 
are no additional focal liver lesions identified.  
  
The hepatic veins are patent. Hepatic arteries are patent. Note 
is made of a 
replaced right hepatic artery arising off the SMA.  
  
The superior mesenteric vein and proximal portal vein are widely 
patent with 
wall-to-wall contrast opacification. However, in the mid portal 
vein, 
extending to the portal bifurcation and into the right and left 
intrahepatic 
portal branches, there is non-occlusive thrombus identified. The 
intrahepatic 
portal branches, particularly on the right, are attenuated, 
which may reflect 
thrombus versus limited portal flow. 
  
There is cholelithiasis, without evidence of acute 
cholecystitis. The 
gallbladder wall is thin. The spleen is enlarged, without focal 
lesions. The 
pancreas is mildly atrophic, without pancreatic ductal dilation 
or focal 
pancreatic lesions. The adrenal glands appear normal. The 
kidneys contain 
multiple low-attenuation rounded lesions, too small to 
definitively 
characterize, but most likely benign cysts. Kidneys enhance 
symmetrically and 
demonstrate no hydronephrosis. 
  
The stomach demonstrates apparent fold thickening, which again 
may suggest 
portal gastropathy. Intra-abdominal loops of small bowel are 
unremarkable. 
There is diffuse colonic wall thickening and edema, though 
evaluation is 
limited by underdistention. While this may, in the proper 
clinical setting, 
reflects colitis, it is more likely indicative of portal 
hypertension given 
the associated findings above. 
  
There is no mesenteric or retroperitoneal adenopathy identified. 
The aorta 
demonstrates diffuse atherosclerotic disease, with mural 
thrombus and 
irregularity. The ostia of the mesenteric vessels, including the 
celiac and 
superior mesenteric artery, demonstrates moderate 
atherosclerotic narrowing, 
though these vessels still opacify normally. 
  
BONE WINDOWS: There is spondylosis in the visualized 
thoracolumbar spine, 
without suspicious lytic or sclerotic osseous lesion. 
  
IMPRESSION: 
1. Cirrhotic-appearing liver, with evidence of portal 
hypertension, including 
ascites, splenomegaly, and gastric/colonic wall edema. 
2. Non-occlusive thrombus within the mid portal vein extending 
into the 
intrahepatic right and left portal veins. The more distal 
intrahepatic portal 
venous branches are attenuated, which may reflect additional 
thrombosis. 
3. Patency of the hepatic arteries, with incidental note of 
replaced right 
hepatic artery arising off the superior mesenteric artery. 
4. Heterogeneous perfusion of the liver on arterial phase 
images, with 
geographic, somewhat linear regions of persistent 
hypoattenuation within the 
right lobe, reflecting sequelae of recent failed TIPS. 
5. Cholelithiasis without evidence of acute cholecystitis. 
6. Diffuse aortic atherosclerosis with mural thrombus, and 
calcification and 
narrowing of the ostium of the mesenteric vessels, as above. 
7. Aortic valvular calcifications. 

 
Brief Hospital Course:
This ___ with HIV/AIDS on ___, HBV, cirrhosis c/b esophageal 
and gastric varices and recent presentation for variceal bleed 
s/p failed TIPS returns with hematemesis now s/p successful 
TIPS.
. 
* UGIB: Patient states his first ever UGIB was about 1 month 
ago. He had OSH EGD with confirmed varices. He presented to ED 
with recurrent hematemesis with HCT drop from recent baseline of 
28 to 18. Bleed was immediately concerning for a recurrent 
variceal bleed in this complicated man with known esophageal and 
gastric varices. TIPS was successfully perfomed, and patient was 
observed overnight in the MICU. Patient's Hct improved to 27 
after total of 2 units pRBCs. Patient was maintained on 
octreotide and protonix gtts. Protonix gtt changed to IV BID 
PPI, then transitioned to pantoprazole 40mg po BID. HCT remained 
stable throughout the remainder of his hospitalization. The 
patient was scheduled for repeat abdominal US in 1 week to 
assess TIPS patency. 
.
* Cirrhosis: Etiology is being worked up in the outpatient 
setting. Most likely hepatitis B related. Per records, Hep B 
serologies are consistent with cleared hepatitis B. He also had 
prior CMV viral inclusions on biopsies.Workup to date includes 
negative AMA, negative ANCA and negative Alpha 1 antitrypsin. 
Ferritin not indicative of hemachromatosis and recent 
ceruloplasmin labs still pending. HBV and HCV viral loads 
negative. 
.
* HIV/AIDS: Contacted patient's outpatient ID physician ___. 
___ to verify ___ regimen above. She states he has had 
recent undetectable viral load on current combination of 
medications. Unclear how patient contracted virus, possible 
sexual contact vs. tattoos. Denies h/o IVDU. He was continued 
outpatient ___ with Ritonavir 100mg daily, Darunavir 800mg 
daily, & Lamivudine 150mg was increased to BID. Also, continued 
on dapsone prophylaxis.

Code :  full code, confirmed with patient and HCP (son)
Communication: son ___. # ___

 
Medications on Admission:
Medications: per recent DC summary / HIV meds confirmed with Dr. 
___ 
___ 1g QID
Pantoprazole 40mg BID
Ciprofloxacin 500mg q12h
Ritonavir 100mg daily
Darunavir 800mg daily
Lamivudine 150mg qdaily 
Dapsone 50mg daily
 
Discharge Medications:
1. Dapsone 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
2. Darunavir 400 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. Lamivudine 150 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. Esopageal Variceal Bleed s/p Transjugular Intrahepatic 
Portosystemic Shunt placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for upper GI bleeding from 
your esophageal varices. You underwent a procedure called a 
Transjugular Intrahepatic Portosystemic Shunt (TIPS) performed 
by the Interventional Radiology service. This shunt was placed 
to help decrease the likelihood you will have bleeding in the 
future from your esophageal varices. 
.
The following changes have been made to your medications:
-Lamivudine dosing has been increased to twice daily
.
Please take all of your other medications as previously 
prescribed.
 
Followup Instructions:
___